US09359359B2
To a solution of 6-amino-3-(4-methoxybenzyl)-1-methyl-5-nitrosopyrimidine-2,4(1H,3H)-dione (4.1 g, 14.1 mmol) in ammonium hydroxide (100 mL, 14% wt/wt) was added sodium dithionite (4.9 g, 28.2 mmol) in small portions at 60° C., and the mixture was stirred at this temperature for 4 h. The reaction was cooled and was diluted with water. The solids were collected, rinsed with water and dried under vacuum to give 5,6-diamino-3-(4-methoxybenzyl)-1-methylpyrimidine-2,4(1H,3H)-dione (3.5 g, 89.8% yield) as a light yellow solid. LCMS retention time 0.404 min; LCMS MH+ 277.

reactant | 6-amino-3-(4-methoxybenzyl)-1-methyl-5-nitrosopyrimidine-2,4(1H,3H)-dione | 14.1 mmol, 4.1 g | NC1=C(C(N(C(N1C)=O)CC1=CC=C(C=C1)OC)=O)N=O | C13H14N4O4
reactant | sodium dithionite | 28.2 mmol, 4.9 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | ammonium hydroxide | 100 mL | [OH-].[NH4+]
solvent | water | O | H2O
product | 5,6-diamino-3-(4-methoxybenzyl)-1-methylpyrimidine-2,4(1H,3H)-dione | 3.5 g, 89.8% yield | NC=1C(N(C(N(C1N)C)=O)CC1=CC=C(C=C1)OC)=O | C13H16N4O3
